US06949579B2
The process is performed as in Example 75, starting with 500 mg of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide, 15 cm 3 of acetonitrile and 0.69 cm3 of hexamethyleneimine. The reaction medium is refluxed for 2 hours and then concentrated to dryness under reduced pressure (2 kPa; 50° C.); the crude product is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with ethyl acetate. The fractions containing the expected product are combined and the residue is taken up in 10 cm3 of diisopropyl ether, filtered off and dried under reduced pressure (90 Pa; 45° C.) to give 670 mg of N-(6-chloro-1H-indazol-3-yl)-1H-azepine-1-acetamide in the form of a yellow foam.

reactant | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 500 mg | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
reactant | acetonitrile | C(C)#N | C2H3N
product | N-(6-chloro-1H-indazol-3-yl)-1H-azepine-1-acetamide | 670 mg | ClC1=CC=C2C(=NNC2=C1)NC(CN1C=CC=CC=C1)=O | C15H13ClN4O
